US04326087
A mixture of 14.7 g (0.05 mol) of 4-fluoro-3-phenoxybenzyl phenyl ether, 50 ml of 32% strength aqueous hydrobromic acid and 60 ml of glacial acetic acid was heated to the reflux temperature for 10 hours, while stirring. The reaction mixture was then poured into 200 ml of water and extracted twice with 200 ml of methylene chloride each time. The combined methylene chloride phases were then extracted twice by shaking with 100 ml of 10% strength sodium hydroxide solution each time. The organic phase was subsequently dried over magnesium sulphate and the solvent was then stripped off under a waterpump vacuum. The residue was freed from the last residues of solvent by incipient distillation at a bath temperature of 60° C./3 mbars. 4-Fluoro-3-phenoxy-benzyl bromide was thus obtained as a viscous oil.

reactant | 4-fluoro-3-phenoxybenzyl phenyl ether | 0.05 mol, 14.7 g | C1(=CC=CC=C1)OCC1=CC(=C(C=C1)F)OC1=CC=CC=C1 | C19H15FO2
reactant | hydrobromic acid | Br | BrH
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | water | 200 ml | O | H2O
product | 4-Fluoro-3-phenoxy-benzyl bromide | FC1=C(C=C(CBr)C=C1)OC1=CC=CC=C1 | C13H10BrFO
